US07256198B2
Step 3: 5-({(2S)-2-[(4-methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)-1H-indole-2,3-dione
The title compound was prepared from 2,3-dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride and 1-methyl-4-[(2S)-pyrrolidin-2-ylmethyl]piperazine according to a procedure similar to that of step 1 of Example 12. NMR (400 Mz, DMSO-d6): consistent.

reactant | 2,3-dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)Cl | C8H4ClNO4S
reactant | 1-methyl-4-[(2S)-pyrrolidin-2-ylmethyl]piperazine | CN1CCN(CC1)C[C@H]1NCCC1 | C10H21N3
product | 5-({(2S)-2-[(4-methylpiperazin-1-yl)methyl]pyrrolidin-1-yl}sulfonyl)-1H-indole-2,3-dione | CN1CCN(CC1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C18H24N4O4S
